US04940710
1-Ethyl-6-fluoro-1,4-dihydro-7 -[3-(1H-indol-3-yl)-1-piperazinyl]-4-oxo-3-quinolinecarboxylic acid
A mixture of 574 mg of 1-ethyl-6-fluoro-1,4-dihydro-4-oxo-7-[3-[1-(phenylsulfonyl)-1H-indol-3-yl]-1-piperazinyl]-3-quinolinecarboxylic acid, 10 ml of 1N sodium hydroxide and 20 ml of dioxane was reacted as described in Example 56, giving 280 mg of the desired product, mp 230° C.

reactant | 1-ethyl-6-fluoro-1,4-dihydro-4-oxo-7-[3-[1-(phenylsulfonyl)-1H-indol-3-yl]-1-piperazinyl]-3-quinolinecarboxylic acid | 574 mg | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CC(NCC1)C1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=CC=C1)F)=O)C(=O)O | C30H27FN4O5S
reactant | sodium hydroxide | 1N, 10 ml | [OH-].[Na+]
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 1-Ethyl-6-fluoro-1,4-dihydro-7 -[3-(1H-indol-3-yl)-1-piperazinyl]-4-oxo-3-quinolinecarboxylic acid | 280 mg | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CC(NCC1)C1=CNC2=CC=CC=C12)F)=O)C(=O)O | C24H23FN4O3
